US04962103
(2S,4S)-1-(p-Nitrobenzyloxycarbonyl)-2-trichloroacetylaminocarbonyloxymethyl-4-acetylthiopyrrolidine (121 mg) was dissolved in 5.8 ml of methanol. To the solution was added 0.45 ml of 1N sodium hydroxide solution under ice-cooling in a nitrogen stream, followed by stirring at the same temperature for 40 minutes. After neutralization by 1.45 ml of 1N hydrochloric acid, the mixture was distilled to remove methanol. The residue was diluted with methylene chloride, washed with water, dried over anhydrous sodium sulfate and distilled to obtain (2S,4S)-1-(p-nitrobenzyloxycarbonyl)-2-aminocarbonyloxymethyl-4-mercaptopyrrolidine.

reactant | (2S,4S)-1-(p-Nitrobenzyloxycarbonyl)-2-trichloroacetylaminocarbonyloxymethyl-4-acetylthiopyrrolidine | 121 mg | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)SC(C)=O)COC(=O)NC(C(Cl)(Cl)Cl)=O)C=C1 | C18H18Cl3N3O8S
reactant | sodium hydroxide | 1N, 0.45 ml | [OH-].[Na+]
solvent | methanol | 5.8 ml | CO | CH4O
product | (2S,4S)-1-(p-nitrobenzyloxycarbonyl)-2-aminocarbonyloxymethyl-4-mercaptopyrrolidine | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)S)COC(=O)N)C=C1 | C14H17N3O6S
